US04801593
3-phenylquinoline (0.5 g) was dissolved in refluxing absolute alcohol (25 ml) and sodium metal (0.28 g) was added portionwise over 30 min. The reaction mixture was then refluxed for 3 hr. The cooled reaction mixture was diluted with water and acidified with conc. hydrochloric acid, the ethanol was removed in vacuo. The reaction mixture was basified with 10M sodium hydroxide solution and extracted with chloroform (2×100 ml). The chloroform extract was dried (magnesium sulphate), decolorised with activated charcoal and evaporated in vacuo to give 1,2,3,4-tetrahydro-3-phenylquinoline as a semi-solid which was crystallised from petroleum-ether (40°-60°), as an off-white solid, m.pt. 84°-86°, characterised by its nmr spectrum.

reactant | 3-phenylquinoline | 0.5 g | C1(=CC=CC=C1)C=1C=NC2=CC=CC=C2C1 | C15H11N
reactant | sodium | 0.28 g | [Na] | Na
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1,2,3,4-tetrahydro-3-phenylquinoline | C1(=CC=CC=C1)C1CNC2=CC=CC=C2C1 | C15H15N
